US03956484
Likewise, by following the procedure of Example 1 but replacing proline methyl ester hydrochloride with glycylglycine ethyl ester and replacing the "activated ester" N-{N-[2-(p-chlorophenoxy)-2-methylpropionyl]glycine} succinimido ester with an equivalent amount of the "activated ester", 2-(p-chlorophenoxy)-2-methyl-propionic acid succinimido ester, obtained in an analogous manner as the aforementioned "activated ester", N-{N-[2-(p-chlorophenoxy)-2-methylpropionyl]glycyl}glycine ethyl ester again is obtained.

reactant | glycylglycine ethyl ester | C(C)OC(CNC(CN)=O)=O | C6H12N2O3
reactant | 2-(p-chlorophenoxy)-2-methyl-propionic acid succinimido ester | C1(CCC(N1OC(C(C)(C)OC1=CC=C(C=C1)Cl)=O)=O)=O | C14H14ClNO5
product | N-{N-[2-(p-chlorophenoxy)-2-methylpropionyl]glycyl}glycine ethyl ester | C(C)OC(CNC(CNC(C(C)(C)OC1=CC=C(C=C1)Cl)=O)=O)=O | C16H21ClN2O5
